US07838524B2
Preparation of 1-[5-tert-butyl-2-(4-nitro-phenyl)-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)-phenyl]-urea
To a solution of 5-tert-butyl-2-(4-nitrophenyl)-2H-pyrazol-3-ylamine (5.0 g, 19.2 mmol) in anhydrous DCE (2 mL) was added CDI (3.5 g, 21.1 mmol), and the reaction was stirred under N2 at room temperature for 18 h. 4-(Pyridin-4-yloxy)phenylamine (3.3 g, 17.7 mmol, Dumas et al., U.S. pat. appl. US2002065296 (2002)) in DCE (12 mL) was added to the reaction, and the solution was stirred under N2 at room temperature for 7 h. The reaction mixture was partitioned between EtOAc (100 mL) and water (100 mL). The organic layer was washed with brine, dried over Na2SO4, and concentrated at reduced pressure. The crude residue was purified by MPLC (1:1 hexanes/EtOAc) to give 5.6 g (68%) of the desired product. 1H-NMR (DMSO-d6) δ 9.21 (s, 1H), 8.68 (s, 1H), 8.43 (d, J=6.3 Hz, 2H), 8.36 (d, J=7.2 Hz, 2H), 7.90 (d, J=6.9 Hz, 2H), 7.50 (d, J=6.9 Hz, 2H), 7.09 (d, J=6.6 Hz, 2H), 6.86 (d, J=5.7 Hz, 2H), 6.44 (s, 1H), 1.29 (s, 9H); MS LC-MS [M+H]+=473, RT=2.60 min.

reactant | 5-tert-butyl-2-(4-nitrophenyl)-2H-pyrazol-3-ylamine | 19.2 mmol, 5.0 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)[N+](=O)[O-])N | C13H16N4O2
reactant | CDI | 21.1 mmol, 3.5 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-(Pyridin-4-yloxy)phenylamine | 17.7 mmol, 3.3 g | N1=CC=C(C=C1)OC1=CC=C(C=C1)N | C11H10N2O
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | DCE | 12 mL | ClCCCl | C2H4Cl2
product | 1-[5-tert-butyl-2-(4-nitro-phenyl)-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)-phenyl]-urea | 5.6 g, 68% | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)[N+](=O)[O-])NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1 | C25H24N6O4
